US05559141
b) 4-[1-(4-cyanophenyl)-4-(4-fluorophenyl)butyl]-1H-imidazole
4-[4-(4-fluorophenyl)-1-(4-tert-butylaminocarbonylphenyl)butyl]-1H-imidazole (7 g) is dissolved into dry acetonitrile (200 ml). 3,6 g of phosphorus pentachloride is added and the mixture is poured into water and acetonitrile is evaporated. The water solution is rendered alkaline and extracted with ethyl acetate. The ethyl acetate phase is washed with water, dried and evaporated to dryness. Yield 85%.

reactant | 4-[4-(4-fluorophenyl)-1-(4-tert-butylaminocarbonylphenyl)butyl]-1H-imidazole | 7 g | FC1=CC=C(C=C1)CCCC(C1=CC=C(C=C1)C(=O)NC(C)(C)C)C=1N=CNC1 | C24H28FN3O
reactant | phosphorus pentachloride | 3,6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-[1-(4-cyanophenyl)-4-(4-fluorophenyl)butyl]-1H-imidazole | Yield 85% | C(#N)C1=CC=C(C=C1)C(CCCC1=CC=C(C=C1)F)C=1N=CNC1 | C20H18FN3
